US03937833
2,8-Bis(3-piperidinopropoxy)dibenzofuran dihydrochloride
To 200 ml of water containing 13.0 g (0.33 mole) of sodium hydroxide and 12.0 g (0.06 mole) of 2,8-dihydroxydibenzofuran are added 250 ml of toluene and 29.7 g (0.15 mole) of 3-piperidinopropyl chloride hydrochloride, and the heterogeneous reaction mixture is heated to reflux with stirring for 24 hours. When cool, the organic layer is washed with water, dried over magnesium sulfate then concentrated in vacuo. The remaining oily residue is dissolved in ether and treated with ethereal HCl to give the desired product which is recrystallized twice from methanol-ethyl acetate yielding 2,8-bis(3-piperidonopropoxy)dibenzofuran dihydrochloride, M.P. 245°-246.5°C.

reactant | water | 0.33 mole, 200 ml, 13.0 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,8-dihydroxydibenzofuran | 0.06 mole, 12.0 g | OC1=CC2=C(OC3=C2C=C(C=C3)O)C=C1 | C12H8O3
reactant | 3-piperidinopropyl chloride hydrochloride | 0.15 mole, 29.7 g | Cl.N1(CCCCC1)CCCCl
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2,8-Bis(3-piperidinopropoxy)dibenzofuran dihydrochloride | Cl.Cl.N1(CCCCC1)CCCOC1=CC2=C(OC3=C2C=C(C=C3)OCCCN3CCCCC3)C=C1 | InChI=1S/C28H38N2O3.2ClH/c1-3-13-29(14-4-1)17-7-19-31-23-9-11-27-25(21-23)26-22-24(10-12-28(26)33-27)32-20-8-18-30-15-5-2-6-16-30;;/h9-12,21-22H,1-8,13-20H2;2*1H
